US07279487B2
Step 2: Methyl 2-{[bis(tert-butoxycarbonyl)amino]methyl}-5-fluorobenzoate
In a dry flask under nitrogen, di-tert-butyl iminodicarboxylate (Aldrich, 3.86 g, 17.8 mmol) was dissolved in dry DMF (5 mL) and treated with NaH (60% dispersion in oil, 0.71 g, 17.8 mmol). After the evolution of gas had ceased, Methyl 2-(bromomethyl)-5-fluorobenzoate (4 g, 16.2 mmole) dissolved in DMF (5 mL) was added. An additional 5 mL of DMF was added to aid stirring. The reaction was stirred for 2 hrs, then partitioned between water and EtOAc. The organic layer was dried with Na2SO4, filtered and concentrated and the residue was purified on silica eluting first with toluene, then with a gradient of 0-5% MeOH/CHCl3. The impure product thus obtained was re-chromatographed on silica eluting with a gradient of 0-30% EtOAc/Hexanes. The product was obtained as a clear oil.

reactant | di-tert-butyl iminodicarboxylate | 17.8 mmol, 3.86 g | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | NaH | 17.8 mmol, 0.71 g | [H-].[Na+]
reactant | Methyl 2-(bromomethyl)-5-fluorobenzoate | 16.2 mmole, 4 g | BrCC1=C(C(=O)OC)C=C(C=C1)F | C9H8BrFO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | Methyl 2-{[bis(tert-butoxycarbonyl)amino]methyl}-5-fluorobenzoate | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC1=C(C(=O)OC)C=C(C=C1)F | C19H26FNO6
